US09034829B1
H1-NMR Analysis of pH-Dependent Dissociation of Bortezomib-Catechol Conjugates
Bortezomib and dopamine hydrogen chloride were dissolved separately in d6-DMSO 0.2 M concentration. The two solutions were mixed to give a stock solution of DA-BTZ conjugate at 0.1 M in DMSO. A solution of 0.1 M monosodium phosphate in D2O was used to dilute the DA-BTZ stock to 1 mM, and pH of such solutions were adjusted with 4N NaOH in D2O to 5.5, 6.5, 7.4 and 8.5. These solutions were analyzed on AVANCE III 500 MHz (FIG. 6) and peak integrals in the range of 7.2 to 5.5 ppm were used for quantifying the degree of dissociation of DA-BTZ presented in FIG. 3B.

reactant | Bortezomib | B([C@H](CC(C)C)NC(=O)[C@H](CC=1C=CC=CC1)NC(=O)C=2C=NC=CN2)(O)O | C19H25BN4O4
reactant | dopamine hydrogen chloride | Cl.NCCC1=CC(O)=C(O)C=C1
reactant | monosodium phosphate | 0.1 M | P(=O)([O-])(O)O.[Na+]
reactant | NaOH | 4N | [OH-].[Na+]
product | Bortezomib Catechol | B([C@H](CC(C)C)NC(=O)[C@H](CC=1C=CC=CC1)NC(=O)C=2C=NC=CN2)(O)O.C=1(O)C(O)=CC=CC1 | InChI=1S/C19H25BN4O4.C6H6O2/c1-13(2)10-17(20(27)28)24-18(25)15(11-14-6-4-3-5-7-14)23-19(26)16-12-21-8-9-22-16;7-5-3-1-2-4-6(5)8/h3-9,12-13,15,17,27-28H,10-11H2,1-2H3,(H,23,26)(H,24,25);1-4,7-8H/t15-,17-;/m0./s1
